US08309546B2
4-[2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-morpholin-4-yl-9H-purin-8-yl]-N,N-dimethylpiperazine-1-carboxamide
Triethylamine (64 μl) and 2-acetamide-4-dimethylcarbamoyl chloride (35 μl) were added to an N-methylpyrrolidone solution (1 ml) of 5-(9-isobutyl-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl)pyrimidin-2-ylamine (100 mg) and the resulting mixture was stirred for 24 hours. The reaction mixture was partitioned with ethyl acetate and water, the insoluble solid was collected by filtration, and then the organic layer of the filtrate was dried over magnesium sulfate. The solvent was evaporated under reduced pressure, the residue was combined with the solid separately collected by filtration followed by the addition of dimethyl sulfoxide (3 ml) and water (3 ml), the resulting mixture was stirred, and the insoluble matter was collected by filtration, washed with water, and dried to give the title compound (50 mg, 43%) as a pale yellow solid.

reactant | Triethylamine | 64 μl | C(C)N(CC)CC | C6H15N
reactant | 5-(9-isobutyl-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl)pyrimidin-2-ylamine | 100 mg | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1CCNCC1)N1CCOCC1)C=1C=NC(=NC1)N | C21H30N10O
reactant | N-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | 4-[2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-morpholin-4-yl-9H-purin-8-yl]-N,N-dimethylpiperazine-1-carboxamide | 50 mg, 43% | NC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC(C)C)N1CCN(CC1)C(=O)N(C)C)N1CCOCC1 | C24H35N11O2
